US04091111
Synthesis of 6-phenyl-4-methylhexa-4-ene-1-yne-3-yl α-isopropyl-4-fluorophenylacetate (12)
7.11 Grams (20 millimoles) of α-isopropyl-4-fluorophenylacetic anhydride and 1.86 g (10 millimoles) of 6-phenyl-4-methylhexa-4-ene-1-yne-3-ol are dissolved in 30 ml of a dry pyridine. The resulting solution is stirred overnight at room temperature. Next day, the reaction solution is poured into 100 g of ice water and extracted with three 30-ml portions of ether. The ether layers obtained are combined and extracted twice with an aqueous saturated sodium hydrogen carbonate. Thereafter, the ether layer is further washed once with a 10% aqueous hydrochloric acid and three times with water, followed by drying over anhydrous sodium sulfate.

reactant | α-isopropyl-4-fluorophenylacetic anhydride | 20 millimoles | C(C)(C)C(C(=O)OC(C(C(C)C)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C22H24F2O3
reactant | 6-phenyl-4-methylhexa-4-ene-1-yne-3-ol | 10 millimoles, 1.86 g | C1(=CC=CC=C1)CC=C(C(C#C)O)C | C13H14O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 6-phenyl-4-methylhexa-4-ene-1-yne-3-yl α-isopropyl-4-fluorophenylacetate | C(C)(C)C(C(=O)OC(C#C)C(=CCC1=CC=CC=C1)C)C1=CC=C(C=C1)F | C24H25FO2
